US06521754B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-propionamide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine and propionyl chloride the title compound was obtained as a light yellow solid (5%), MS: m/e=322 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-propionamide | COC1=CC=C(C2=C1N=C(S2)NC(CC)=O)N2CCOCC2 | C15H19N3O3S
